US05789623
2-{Bis-[3,5-bis-(trifluoromethyl)phenyl]phosphino}-2'-hydroxybiphenyl
23.5 g (0.1 mol) of 6-chloro-6H-dibenz[c,e][1,2]oxaphosphorine in 200 ml of anhydrous o-xylene at 80° C. are introduced, in an argon atmosphere with stirring, and a solution of 0.23 mol of 3,5-di(trifluoromethyl)phenylmagnesium bromide in 300 ml of tetrahydrofuran is added dropwise. Tetrahydrofuran is distilled off and the temperature is slowly increased to 120° C. in the course of this. The mixture is then stirred for 3 hours at 120° C., cooled to room temperature, and 100 ml of water are added. The mixture is neutralized with dilute hydrochloric acid, the organic phase is separated off, dried with sodium sulfate and concentrated under reduced pressure. 61.0 g of black solid are obtained. By recrystallization from heptane, with addition of activated carbon, and subsequent hot filtration, 37.2 g (59%) of pale yellow crystals having melting point 120° to 121° C. are obtained.

reactant | 6-chloro-6H-dibenz[c,e][1,2]oxaphosphorine | 0.1 mol, 23.5 g | ClP1OC2=C(C3=C1C=CC=C3)C=CC=C2 | C12H8ClOP
reactant | 3,5-di(trifluoromethyl)phenylmagnesium bromide | 0.23 mol | FC(C=1C=C(C=C(C1)C(F)(F)F)[Mg]Br)(F)F
solvent | o-xylene | 200 ml | CC=1C=CC=CC1C | C8H10
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 2-{Bis-[3,5-bis-(trifluoromethyl)phenyl]phosphino}-2'-hydroxybiphenyl | 61.0 g | FC(C=1C=C(C=C(C1)C(F)(F)F)P(C1=C(C=CC=C1)C1=C(C=CC=C1)O)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)(F)F | C28H15F12OP
